US09416137B2
A mixture of (2R,6R,11R)-tert-butyl 8-((2,4-dimethoxybenzyl)carbamoyl)-6,11-dimethyl-1,2,5,6-tetrahydro-2,6-methanobenzo[d]azocine-3(4H)-carboxylate (4.00 g, 8.09 mmol) in 4N HCl/dioxane was stirred at ambient temperature overnight. The majority of the solvent was decanted and the residue washed with diethyl ether (500 mL). The resulting solid was dried under reduced pressure giving (2R,6R,11R)-N-(2,4-dimethoxybenzyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide hydrochloride (3.35 g, 96% yield); LC/MS (M+H)+=395.5.

reactant | (2R,6R,11R)-tert-butyl 8-((2,4-dimethoxybenzyl)carbamoyl)-6,11-dimethyl-1,2,5,6-tetrahydro-2,6-methanobenzo[d]azocine-3(4H)-carboxylate | 8.09 mmol, 4.00 g | COC1=C(CNC(=O)C2=CC3=C(C[C@H]4N(CC[C@@]3([C@H]4C)C)C(=O)OC(C)(C)C)C=C2)C=CC(=C1)OC | C29H38N2O5
reactant | HCl dioxane | 4N | Cl.O1CCOCC1
product | (2R,6R,11R)-N-(2,4-dimethoxybenzyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methanobenzo[d]azocine-8-carboxamide hydrochloride | 3.35 g, 96% yield | Cl.COC1=C(CNC(=O)C2=CC3=C(C[C@H]4NCC[C@@]3([C@H]4C)C)C=C2)C=CC(=C1)OC | InChI=1S/C24H30N2O3.ClH/c1-15-21-12-16-5-6-17(11-20(16)24(15,2)9-10-25-21)23(27)26-14-18-7-8-19(28-3)13-22(18)29-4;/h5-8,11,13,15,21,25H,9-10,12,14H2,1-4H3,(H,26,27);1H/t15-,21+,24+;/m0./s1
